US04128658
To a stirred suspension of potassium carbonate (20.7 g) in a solution of 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine (10.7 g) and N-cyano-N'-methylcarbamimidothioic acid methyl ester (7.1 g) in acetonitrile (107 ml) at 70° was added a solution of silver nitrate (9.35 g) in acetonitrile (20 ml) during 1 hr. The mixture was stirred for 16 hr, the solid filtered and the filtrate evaporated to dryness. The residue was dissolved in ethyl acetate (250 ml). A portion of this (10.5 ml) was washed with water (6 ml), the ethyl acetate layer evaporated to give a solid which was crystallised from isopropylacetate (1.75 ml) giving N"-cyano-N-[2-[[[5-(dimethylaminomethyl)-2-furanyl]methyl]thio]ethyl]-N'-methylguanidine (0.35 g) m.p. 79°-81.5°.

reactant | potassium carbonate | 20.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethanamine | 10.7 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | N-cyano-N'-methylcarbamimidothioic acid methyl ester | 7.1 g | CSC(NC#N)=NC | C4H7N3S
solvent | acetonitrile | 107 ml | C(C)#N | C2H3N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
catalyst | silver nitrate | 9.35 g | [N+](=O)([O-])[O-].[Ag+]
product | N"-cyano-N-[2-[[[5-(dimethylaminomethyl)-2-furanyl]methyl]thio]ethyl]-N'-methylguanidine | 0.35 g | C(#N)N=C(NCCSCC=1OC(=CC1)CN(C)C)NC | C13H21N5OS
